US04034006
A mixture of dimethylformamide/water is distilled from a solution of 206 g (1 mol) of 2,6-di-tert.-butylphenol and 80 g of a 50% strength aqueous sodium hydroxide solution in 500 ml of dimethylformamide at boiling point 30°-50° C./approx. 20 mm Hg until the water content in the last sample of the distillate is approx. 1.5%. After releasing the vacuum with nitrogen, carbon dioxide gas is passed into the reaction solution, with vigorous stirring, in the course of which the temperature of the solution rises to approx 85° C. After 11/2 hours at this temperature, the reaction mixture is cooled to 60° C. and 450 ml of a 20% strength sodium chloride solution are added under carbon dioxide gas. The resulting clear reaction solution is thereafter cooled, whereupon crystallisation starts at room temperature and is completed by stirring for 0.5 hours at 0°-5° C. Filtration, successive washing with 200 ml of 20% strength sodium chloride solution and 200 ml of n-hexane and drying the crystals to constant weight in vacuo at 40° C. yields colourless sodium 3,5-di-tert.-butyl-4-hydroxy-benzoate, containing water of crystallisation; when this substance is dissolved in 500 ml of water and precipitated with concentrated hydrochloric acid, it yields 189 g (yield, 77% of theory) of 3,5-di-tert.-butyl-4-hydroxybenzoic acid of melting point 215° C.

reactant | 2,6-di-tert.-butylphenol | 1 mol, 206 g | C(C)(C)(C)C1=C(C(=CC=C1)C(C)(C)C)O | C14H22O
reactant | sodium hydroxide | [OH-].[Na+]
reactant | carbon dioxide | C(=O)=O | CO2
reactant | sodium chloride | [Cl-].[Na+]
solvent | dimethylformamide | 500 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
solvent | dimethylformamide water | CN(C=O)C.O
product | sodium 3,5-di-tert.-butyl-4-hydroxy-benzoate | C(C)(C)(C)C=1C=C(C(=O)[O-])C=C(C1O)C(C)(C)C.[Na+] | InChI=1S/C15H22O3.Na/c1-14(2,3)10-7-9(13(17)18)8-11(12(10)16)15(4,5)6;/h7-8,16H,1-6H3,(H,17,18);/q;+1/p-1
